US08034812B2
Production of N-[6-(3-amino-4-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylcyclopropanecarboxamide
Using 3-amino-4-chlorophenol (1.57 g, 11.0 mmol), N,N-dimethylformamide (25.0 mL), N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)-2-methylcyclopropanecarboxamide (2.50 g, 7.31 mmol) and potassium carbonate (2.02 g, 14.6 mmol), and in the same manner as in Example 82, the title compound (1.92 g, 73%) was obtained as a brown powder.

reactant | 3-amino-4-chlorophenol | 11.0 mmol, 1.57 g | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)-2-methylcyclopropanecarboxamide | 7.31 mmol, 2.50 g | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2C(C2)C | C11H11IN4O
reactant | potassium carbonate | 14.6 mmol, 2.02 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25.0 mL | CN(C=O)C | C3H7NO
product | N-[6-(3-amino-4-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylcyclopropanecarboxamide | 1.92 g, 73% | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3C(C3)C)C=CC1Cl | C17H16ClN5O2
